US07452893B2
A methanol (300 mL) solution of [1-({[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}methyl)vinyl]benzene (2.02 g, 5.95 mmol) was cooled to −70° C. Ozone gas was bubbled through the solution until a blue color appeared. The solution was purged with nitrogen then a solution of triphenylphosphine (2.34 g, 8.92 mmol) in methylene chloride (100 mL) was added. Contents of the reaction flask were warmed to room temperature and the solvent was removed under reduced pressure. The remaining residue was subjected to flash column chromatography (hexane:ethyl acetate, 90:10) to give 2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethanone as a colorless oil (1.68 g, 83% yield).

reactant | methanol | 300 mL | CO | CH4O
reactant | [1-({[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}methyl)vinyl]benzene | 5.95 mmol, 2.02 g | C(C1=CC=CC=C1)OC1CC(C(CC1)OCC(=C)C1=CC=CC=C1)F | C22H25FO2
reactant | triphenylphosphine | 8.92 mmol, 2.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethanone | 1.68 g, 83% yield | C(C1=CC=CC=C1)OC1CC(C(CC1)OCC(=O)C1=CC=CC=C1)F | C21H23FO3
